US06426345B1
A mixture of 2-chloro-3-nitropyridine (1.59 g) and m-toluidine (1.07 g) was heated at 100° C. for 20 minutes. The mixture was cooled and dissolved in ethyl acetate. The organic solution was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate, 4:1) to afford 3-nitro-2-[(m-tolyl)amino]pyridine (834 mg) as an orange solid.

reactant | 2-chloro-3-nitropyridine | 1.59 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | m-toluidine | 1.07 g | NC1=CC(=CC=C1)C | C7H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-nitro-2-[(m-tolyl)amino]pyridine | 834 mg | [N+](=O)([O-])C=1C(=NC=CC1)NC=1C=C(C=CC1)C | C12H11N3O2
